US06660737B2
In a procedure analogous to Example 1, o-tolualdehyde is combined with phenyl hydrazine to form N-(2-Methyl-benzylidene)-N′-phenyl-hydrazine.

reactant | o-tolualdehyde | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | phenyl hydrazine | C1(=CC=CC=C1)NN | C6H8N2
product | N-(2-Methyl-benzylidene)-N′-phenyl-hydrazine | CC1=C(C=NNC2=CC=CC=C2)C=CC=C1 | C14H14N2
